US06124354
2-(Diisopropylamino)ethyl 1-phenylcyclobutanecarboxylate Hydrochloride
The title compound was prepared in an analogous manner to that in Example 36 by reacting 1-phenylcyclobutanecarbonyl chloride with 2-diisopropylaminoethanol at 80° C. for 17 h. The undissolved oil was separated from the reaction mixture and the toluene solution was chromatographed on silica gel using toluene-Et3N 98:2 as eluent. The yield was 1.5 g (77%); mp 110-114° C.; 1H NMR (D2O) δ 1.33 (d, 12H), 1.97 (m, 1H), 2.11 (m, 1H), 2.63 (m, 2H), 2.89 (m, 2H), 3.47 (t, 2H), 3.70 (m, 2H), 4.46 (t, 2H), 7.44 (m, 1H), 7.48 (m, 2H), 7.53 (m, 2H). Anal. (C19H29NO2 HCl) C, H, N.

reactant | 1-phenylcyclobutanecarbonyl chloride | C1(=CC=CC=C1)C1(CCC1)C(=O)Cl | C11H11ClO
reactant | 2-diisopropylaminoethanol | C(C)(C)N(CCO)C(C)C | C8H19NO
product | 2-(Diisopropylamino)ethyl 1-phenylcyclobutanecarboxylate Hydrochloride | Cl.C1(=CC=CC=C1)C1(CCC1)C(=O)OCCN(C(C)C)C(C)C | InChI=1S/C19H29NO2.ClH/c1-15(2)20(16(3)4)13-14-22-18(21)19(11-8-12-19)17-9-6-5-7-10-17;/h5-7,9-10,15-16H,8,11-14H2,1-4H3;1H
